US07723367B2
2,3-dichloro-4-fluorobenzoic acid
To an oven-dried, N2-purged 1-L, round-bottomed flask containing a large magnetic stir bar were added via syringe anhydrous tetrahydrofuran (200 mL) and tetramethylethylenediamine (11.3 mL, 8.72 g, 75.0 mmol). The flask was cooled to −85° C. (dry ice/anhydrous ether slurry) and the sec-butyllithium/cyclohexane solution (53.6 mL of 1.4 M solution, 75.0 mmol) was added via syringe. A solution of commercially available 3-chloro-4-fluorobenzoic acid (5.24 g, 30 mmol) in anhydrous tetrahydrofuran (10 mL) was added dropwise to the reaction via syringe. The resulting orange/brown slurry was stirred at −85° C. for 2 hours. A solution of hexachloroethane (28.4 g, 120 mmol) in anhydrous tetrahydrofuran (30 mL) was added dropwise to the reaction mixture. The mixture was stirred at −85° C. for 1 hour and then allowed to warm to room temperature over 4 hours. The solvents/volatiles were removed by rotary evaporator to give a brown semi-solid. Water (150 mL) was added. The mixture was transferred to a separatory funnel and washed with ether (2×100 mL). Hydrochloric acid (1 N) was added via pipet to adjust the pH to ˜1. The mixture was extracted with ethyl acetate (4×100 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated by rotary evaporator to give a tan solid. The product was recrystallized from ethyl acetate/hexanes to give 4.36 g (70%) of the title compound as a fine white powder. MS (ESI−) m/z 206.9 (M−H); 1H NMR (DMSO-d6) δ 7.54 (dd, J=8.8, 8.8 Hz, 1H), 7.85 (dd, J=8.8, 5.8 Hz, 1H), 13.72 (br s, 1H).

reactant | tetramethylethylenediamine | 75.0 mmol, 11.3 mL, 8.72 g | CN(CCN(C)C)C | C6H16N2
reactant | dry ice | C(=O)=O | CO2
reactant | sec-butyllithium cyclohexane | 75.0 mmol, 1.4 M, 53.6 mL | C(C)(CC)[Li].C1CCCCC1
reactant | 3-chloro-4-fluorobenzoic acid | 30 mmol, 5.24 g | ClC=1C=C(C(=O)O)C=CC1F | C7H4ClFO2
reactant | hexachloroethane | 120 mmol, 28.4 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | Water | 150 mL | O | H2O
product | 2,3-dichloro-4-fluorobenzoic acid | 4.36 g, 70% | ClC1=C(C(=O)O)C=CC(=C1Cl)F | C7H3Cl2FO2
